US06388088B1
A solution of 2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclohexyl-propionic acid methyl ester (278 mg, 0.76 mmol) in ethanol (6 mL) was treated with a 1N aqueous sodium hydroxide solution (1.5 mL). The solution was heated at 45-50° C. for 5 h, at which time, thin layer chromatography analysis of the mixture indicated the absence of starting material. The reaction mixture was then concentrated in vacuo to remove ethanol, and the residue was diluted with water (20 mL) and extracted with diethyl ether (1×40 mL) to remove any neutral impurities. The aqueous layer was acidified with a 1N aqueous hydrochloric acid solution. The resulting acid was extracted into ethyl acetate (2×50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford 2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclohexyl-propionic acid (226 mg, 85%) as an amorphous solid: EI-HRMS m/e calcd for C17H21ClN4O2 (M+) 348.1353, found 348.1354.

reactant | 2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclohexyl-propionic acid methyl ester | 0.76 mmol, 278 mg | COC(C(CC1CCCCC1)C1=CC(=C(C=C1)N1N=NN=C1C)Cl)=O | C18H23ClN4O2
reactant | sodium hydroxide | 1N, 1.5 mL | [OH-].[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclohexyl-propionic acid | 226 mg, 85% | ClC=1C=C(C=CC1N1N=NN=C1C)C(C(=O)O)CC1CCCCC1 | C17H21ClN4O2
